US03985779
Synthetic preparation of 2-[m-(p-chloro-o-methylphenoxy)phenyl]propionic acid
2-[m-(p-chloro-o-methyl-phenoxy)phenyl]propionaldehyde, which has been synthesized in accordance with Example 1 from 3-(p-chloro-o-methyl-phenoxyphenyl)acetophenone having the melting point of 148° - 156° C./0.5 mmHg and ethyl ester of chloroacetic acid, is subjected to oxidative treatment in the manner of Example 1 to obtain the contemplated product.

reactant | 2-[m-(p-chloro-o-methyl-phenoxy)phenyl]propionaldehyde | ClC1=CC(=C(OC=2C=C(C=CC2)C(C=O)C)C=C1)C | C16H15ClO2
reactant | ethyl ester of chloroacetic acid | CCOC(=O)CCl | C4H7ClO2
product | 2-[m-(p-chloro-o-methylphenoxy)phenyl]propionic acid | ClC1=CC(=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=C1)C | C16H15ClO3
